US04839379
1-(4-Aminophenyl)-3-n-decyl-3-azabicyclo[3.1.0]hexane-2,4-dione
Following the procedure of Example 3, a solution of 6.0 g of 3-n-decyl-1-(4-nitrophenyl)-3-azabicyclo[3.1.0]hexane-2,4-dione in 120 ml of ethanol is hydrogenated in the presence of 0.3 g of 5% palladium on carbon and worked up, affording the title compound which melts at 92°-94° C. after recrystallisation from ethyl acetate. The starting material is synthesised in accordance with Example 3, starting from 4.6 g of 1-(4-nitrophenyl)-3-azabicyclo[3.1.0]hexane-2,4-dione, 0.72 g of sodium hydride (pract. Fluka) and 5.3 ml of 1-decyl bromide. The product is a yellow oil with Rf=0.50 on thin-layer silica gel plates in the system hexane/ethyl acetate (1:1).

reactant | 3-n-decyl-1-(4-nitrophenyl)-3-azabicyclo[3.1.0]hexane-2,4-dione | 6.0 g | C(CCCCCCCCC)N1C(C2(CC2C1=O)C1=CC=C(C=C1)[N+](=O)[O-])=O | C21H28N2O4
solvent | ethanol | 120 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.3 g | [Pd] | Pd
product | 1-(4-Aminophenyl)-3-n-decyl-3-azabicyclo[3.1.0]hexane-2,4-dione | NC1=CC=C(C=C1)C12C(N(C(C2C1)=O)CCCCCCCCCC)=O | C21H30N2O2
